US07732446B1
As described in example 1E, 100 mg of 1-(tert-butoxycarbonylamino-methyl)-6,8-dimethoxy-isoquinoline-4-carboxylic acid was coupled with methyl-pyridin-3-ylmethyl-amine to give 98 mg of [6,8-dimethoxy-4-(methyl-pyridin-3-ylmethyl-carbamoyl)-isoquinolin-1-ylmethyl]-carbamic acid tert-butyl ester. MS: APCI (M+H) calc'd for C20H22N4O3+H 367.2; found 367.2.

reactant | 1-(tert-butoxycarbonylamino-methyl)-6,8-dimethoxy-isoquinoline-4-carboxylic acid | 100 mg | C(C)(C)(C)OC(=O)NCC1=NC=C(C2=CC(=CC(=C12)OC)OC)C(=O)O | C18H22N2O6
reactant | methyl-pyridin-3-ylmethyl-amine | CNCC=1C=NC=CC1 | C7H10N2
product | [6,8-dimethoxy-4-(methyl-pyridin-3-ylmethyl-carbamoyl)-isoquinolin-1-ylmethyl]-carbamic acid tert-butyl ester | 98 mg | C(C)(C)(C)OC(NCC1=NC=C(C2=CC(=CC(=C12)OC)OC)C(N(CC=1C=NC=CC1)C)=O)=O | C25H30N4O5
